US04460793
201.5 g (1 mol) of 3,3-dimethyl-1,1,5-trichloro-1-pentene are slowly added dropwise into 1 l of quinoline, and 83 g potassium carbonate at 225° to 230° C., and distillate is simultaneously taken off via the head of a column. The temperature in the flask is raised to the boiling point of the quinoline, and a total of 126 g of distillate is isolated, the distillate again being fractionally distilled. 121 g (73% of theory) of 1,1-dichloro-3,3-dimethyl-1,4-pentadiene are obtained at a boiling point of 59°-53° C./20 mm Hg.

reactant | 3,3-dimethyl-1,1,5-trichloro-1-pentene | 1 mol, 201.5 g | CC(C=C(Cl)Cl)(CCCl)C | C7H11Cl3
reactant | quinoline | 1 l | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | potassium carbonate | 83 g | C([O-])([O-])=O.[K+].[K+]
product | 1,1-dichloro-3,3-dimethyl-1,4-pentadiene | 121 g, 73% | ClC(=CC(C=C)(C)C)Cl | C7H10Cl2
